US07820670B2
Step A: N1-(3-Bromoimidazo[1,2-b]pyridazin-6-yl)-N2,N2-diethylethane-1,2-diamine
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and N1,N1-diethylethane-1,2-diamine according to general procedure 1 providing the intermediate (160 mg, 80%) as a clear oil: Rf=0.22 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 7.55 (d, J=9.7 Hz, 1H), 7.40 (s, 1H), 6.68 (d, J=9.7 Hz, 1H), 3.52 (t, J=6.0 Hz, 2H), 2.79 (t, J=5.8 Hz, 2H), 2.68 (quart, J=7.2 Hz, 4H), 1.12 (t, J=7.2 Hz, 6H); ES-MS: (M+H)=312, 314 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | N1,N1-diethylethane-1,2-diamine | C(C)N(CCN)CC | C6H16N2
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | N1-(3-Bromoimidazo[1,2-b]pyridazin-6-yl)-N2,N2-diethylethane-1,2-diamine | BrC1=CN=C2N1N=C(C=C2)NCCN(CC)CC | C12H18BrN5
